US07622583B2
A mixture of (3-{5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl}-pyridin-2-yl)-carbamic acid tert-butyl ester (25 mg, 0.0394 mmol) in 5% H2SO4 in TFA (4 mL) and water (1 mL) was stirred at 50° C. for 6 h. The reaction mixture was cooled to room temperature, evaporated to dryness and treated with saturated aqueous NaHCO3 solution until pH 7-8. The mixture was extracted with EtOAc (2×15 mL), dried (anhydrous Na2SO4) and concentrated. The obtained residue was column purified to afford N-[2-(2-amino-pyridine-3-carbonyl)-5-chloro-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide (9.3 mg) in 48% yield. ESMS m/z (relative intensity): 491 (M+H)+ (100).

reactant | (3-{5-chloro-3-[(4-chloro-3-trifluoromethyl-benzenesulfonyl)-methoxymethyl-amino]-pyridine-2-carbonyl}-pyridin-2-yl)-carbamic acid tert-butyl ester | 0.0394 mmol, 25 mg | C(C)(C)(C)OC(NC1=NC=CC=C1C(=O)C1=NC=C(C=C1N(COC)S(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl)=O | C25H23Cl2F3N4O6S
reactant | water | 1 mL | O | H2O
solvent | H2SO4 | OS(=O)(=O)O | H2O4S
solvent | TFA | 4 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[2-(2-amino-pyridine-3-carbonyl)-5-chloro-pyridin-3-yl]-4-chloro-3-trifluoromethyl-benzenesulfonamide | 9.3 mg, 48% yield | NC1=NC=CC=C1C(=O)C1=NC=C(C=C1NS(=O)(=O)C1=CC(=C(C=C1)Cl)C(F)(F)F)Cl | C18H11Cl2F3N4O3S
